US07435815B2
N,N-Diethyl-2-[(3-methyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetamide
prepared by reaction of [(3-methyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetic acid with diethylamine

reactant | [(3-methyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetic acid | CC=1C(=NC=CC1)S(=O)(=O)N(C=1C=C(C=CC1)C)CC(=O)O | C15H16N2O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | N,N-Diethyl-2-[(3-methyl-pyridine-2-sulfonyl)-m-tolyl-amino]-acetamide | C(C)N(C(CN(C=1C=C(C=CC1)C)S(=O)(=O)C1=NC=CC=C1C)=O)CC | C19H25N3O3S
